US04429146
Other compounds of this type are also prepared according to this example by proper substitution of the 2,4-dichlorophenoxyacetyl chloride reactant. For instance, 2-[(2-cyano-4-nitrophenoxy)-propionyloxy]ethyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate is prepared by substituting 2-[(2-cyano-4-nitrophenoxy)propionyl]chloride; 2-(2,4,6-trichlorophenoxyacetoxy)ethyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate is prepared by substituting 2-(2,4,6-trichlorophenoxyacetyl chloride; etc.

reactant | 2,4-dichlorophenoxyacetyl chloride | ClC1=C(OCC(=O)Cl)C=CC(=C1)Cl | C8H5Cl3O2
reactant | 2-[(2-cyano-4-nitrophenoxy)-propionyloxy]ethyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | ClC1=C(OC=2C=CC(=C(C(=O)OCCOC(CCOC3=C(C=C(C=C3)[N+](=O)[O-])C#N)=O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C26H17ClF3N3O10
reactant | 2,4,6-trichlorophenoxyacetyl chloride | ClC1=C(OCC(=O)Cl)C(=CC(=C1)Cl)Cl | C8H4Cl4O2
product | 2-(2,4,6-trichlorophenoxyacetoxy)ethyl 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | ClC1=C(OC=2C=CC(=C(C(=O)OCCOC(COC3=C(C=C(C=C3Cl)Cl)Cl)=O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C24H14Cl4F3NO8
